US07056934B2
1-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-imidazole-4-carboxylic acid methyl ester
Imidazole-4-carboxylic acid methyl ester (756 mg, 6 mmol) was added slowly to a stirred suspension of sodium hydride (248 mg, 6.2 mmol) in tetrahydrofuran (10 mL) under nitrogen. The reaction mixture was stirred at room temperature for 30 minutes before being treated dropwise with 2-(2-bromoethoxy)-tetrahydro-2H-pyran (1.34 g, 6.4 mmol) and lithium iodide (40 mg, 0.3 mmol). The reaction mixture was allowed to stir at room temperature under nitrogen for 72 hours and then at reflux for 24 hours. The reaction mixture was cooled and diluted with a mixture of ethyl acetate:water 1:1 (300 mL). The aqueous layer was separated and extracted with ethyl acetate (2×50 mL). The organics were combined, dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol 100:0 to 98:2 to 96:4 to yield the title product.

reactant | Imidazole-4-carboxylic acid methyl ester | 6 mmol, 756 mg | COC(=O)C=1N=CNC1 | C5H6N2O2
reactant | sodium hydride | 6.2 mmol, 248 mg | [H-].[Na+]
reactant | 2-(2-bromoethoxy)-tetrahydro-2H-pyran | 6.4 mmol, 1.34 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | lithium iodide | 0.3 mmol, 40 mg | [I-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate water | 300 mL | C(C)(=O)OCC.O
product | 1-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CN(C1)CCOC1OCCCC1 | C12H18N2O4
